US07531577B2
A solution of 0.28 grams (0.837 mmoles) N-(5-aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-3-fluoro-benzenesulfonamide in 6 mL n-butyl formate was heated under reflux for 1.5 hours. The solution was concentrated under reduced pressure. 3-Fluoro-N-(5-formylaminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide was obtained by recrystallization of the residue from 2-propanol/ethyl ether to provide 0.27 grams (89%) of 3-fluoro-N-(5-formylaminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide, m.p. 143-144° C., M+H=363

reactant | N-(5-aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-3-fluoro-benzenesulfonamide | 0.837 mmoles, 0.28 grams | NCC1C=2C=CC(=CC2CCC1)NS(=O)(=O)C1=CC(=CC=C1)F | C17H19FN2O2S
reactant | n-butyl formate | 6 mL | C(=O)OCCCC | C5H10O2
product | 3-Fluoro-N-(5-formylaminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide | FC=1C=C(C=CC1)S(=O)(=O)NC1=CC=2CCCC(C2C=C1)CNC=O | C18H19FN2O3S
